US04322429
3-DIMETHYLAMINO-2-(4-(TRIFLUOROMETHYL)PHENYL)-ACRYLONITRILE
4-(Trifluoromethyl)phenylacetonitrile (6.0 g.) in 5 ml. dimethylformamide-dimethylacetal was refluxed for 2 hours. Water was added and the final product was filtered, dried, and identified by NMR analysis.

reactant | 4-(Trifluoromethyl)phenylacetonitrile | 6.0 g | FC(C1=CC=C(C=C1)CC#N)(F)F | C9H6F3N
reactant | dimethylformamide-dimethylacetal | COC(N(C)C)OC | C5H13NO2
solvent | Water | O | H2O
product | 3-DIMETHYLAMINO-2-(4-(TRIFLUOROMETHYL)PHENYL)-ACRYLONITRILE | CN(C=C(C#N)C1=CC=C(C=C1)C(F)(F)F)C | C12H11F3N2
